US07858784B2
Synthesis of N-Hexylaniline (FIG. 12, Table 8, Entry 3)
Following general procedure D, a mixture of chlorobenzene (1.02 mL, 10 mmol), hexylamine (1.83 mL, 14 mmol), NaOt-Bu (1.15 g, 12 mmol), 10 (4 mg, 0.05 mol %), 1 (2.5 mg, 0.05 mol %), and Bu2O (3 mL) was heated to 85° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 50 g; 0-50% EtOAc/hexanes) to provide the title compound as a clear oil (1.607 g, 91%). 1H NMR (300 MHz, CDCl3) δ: 7.33 (t, J=7.5 Hz, 2H), 6.85 (t, J=7.5 Hz, 1H), 6.74 (d, J=7.5 Hz, 2H), 3.70 (s, 1H), 3.23 (t, J=7.0 Hz, 2H), 1.74 (pentet, J=7.0 Hz, 2H), 1.51 (m, 6H), 1.09 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) 6: ppm 148.9, 129.6, 117.4, 113.0, 44.4, 32.1, 29.9, 27.3, 23.1, 14.5. IR (neat, cm−1): 3412, 2956, 2928, 1603, 1507, 1321, 1259, 748, 692. Anal. Calcd. for C12H19N: C, 81.30; H, 10.80. Found: C, 81.37; H, 10.73.

reactant | chlorobenzene | 10 mmol, 1.02 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | hexylamine | 14 mmol, 1.83 mL | C(CCCCC)N | C6H15N
reactant | NaOt-Bu | 12 mmol, 1.15 g | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 3 mL | O(CCCC)CCCC | C8H18O
product | N-Hexylaniline | 1.607 g, 91% | C(CCCCC)NC1=CC=CC=C1 | C12H19N
